US06677368B2
To a mixture of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole (10 g, 41.1 mmol), and 4-bromoveratrole (8.93 g, 41.1 mmol) in THF (140 mL) were added Palladium catalyst Pd(PPh3)4 (1.43 g, 1.23 mmol) and the freshly prepared sodium hydroxide solution (5.08 g in 58 mL of water). The system was degassed and then charged with nitrogen. The degas procedure was repeated for three times. The mixture was stirred under nitrogen at 80° C. oil bath for overnight. TLC showed the completion of the coupling reaction. The mixture was cooled to room temperature, diluted with ethyl acetate, and separated from water layer. The ethyl acetate solution was washed with brine, and dried over Na2SO4. After filtration, the solvents were evaporated, and the crude product was purified by a silica gel column to give 7.47 g (72%) of 4-(3,4-dimethoxy-phenyl)-1H-indole.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 41.1 mmol, 10 g | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | 4-bromoveratrole | 41.1 mmol, 8.93 g | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | sodium hydroxide | 58 mL, 5.08 g | [OH-].[Na+]
solvent | THF | 140 mL | C1CCOC1 | C4H8O
catalyst | Palladium | 1.23 mmol, 1.43 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3,4-dimethoxy-phenyl)-1H-indole | 7.47 g, 72% | COC=1C=C(C=CC1OC)C1=C2C=CNC2=CC=C1 | C16H15NO2
